US05480790
1-Amino-1-deoxy-D-glucitol:
Glucose (0.55 mol; 100 g) was dissolved in 500 ml of H2O, and 40 ml of an 80% hydrazinium hydrate solution (1 mol) were added. The mixture was stirred slowly for 14 h and filled into a high pressure autoclave. Freshly activated Raney nickel (20 g) was added and the mixture was hydrogenated for 3 h at 50° C. while stirring with about 1000 r.p.m. The autoclave was depressurized and the product-catalyst mixture was filtered. The blue filtrate was treated with diacetyldioxime (2,3-butanedionedioxime) to remove the dissolved nickel. The product was concentrated to a clear yellowish syrup and was crystallized in the refrigerator. The white crystals were filtered off and washed with MeOH. If necessary the product was purified using the oxalate method of J. W. Long, G. N. Bollenbach in "Methods of Carbohydrate Chemistry" ed. by R. L. Whistler and M. L. Wolfrom, Academic Press N.Y. 1963, Vol. 2, P. 79). Yield: 80 g ( 80%), m.p.: 127° C.

reactant | Glucose | 0.55 mol, 100 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | hydrazinium hydrate | 1 mol | O.[NH3+]N
solvent | H2O | 500 ml | O | H2O
catalyst | Raney nickel | 20 g | [Ni] | Ni
product | 1-Amino-1-deoxy-D-glucitol | NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15NO5
